US05102877
A methylene chloride solution (375 ml) of dimethyl sulfoxide (21.8 ml) was cooled to -70° C. and a methylene chloride solution (125 ml) of oxalyl chloride (13.4 ml) was added thereto below -50° C. After completion of the addition, the mixture was stirred for 30 minutes, at the end of which time a solution of 1-allyloxycarbonyl-3-hydroxypyrrolidine (25 g) in methylene chloride (125 ml) was added below -50° C. The mixture was stirred at the same temperature for 1 hour and, then, triethylamine (101 ml) was added at a temperature below -50° C. The mixture was further stirred at that temperature for 1 hour. Thereafter, the temperature was allowed to rise gradually to room temperature and the reaction mixture was diluted with water and allowed to stand. The aqueous layer was then separated and extracted with 2 portions of methylene chloride. The organic layers were combined, washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution, water and aqueous sodium chloride solution successively, and dried over anhydrous magnesium sulfate. Finally the solvent was distilled off under reduced pressure to give 1-allyloxycarbonyl-3-oxopyrrolidine (24.5 g).

reactant | dimethyl sulfoxide | 21.8 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 13.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-allyloxycarbonyl-3-hydroxypyrrolidine | 25 g | C(C=C)OC(=O)N1CC(CC1)O | C8H13NO3
reactant | triethylamine | 101 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 375 ml | C(Cl)Cl | CH2Cl2
product | 1-allyloxycarbonyl-3-oxopyrrolidine | 24.5 g | C(C=C)OC(=O)N1CC(CC1)=O | C8H11NO3
